US04115385
2-(3-[p-Methoxybenzimidoyl]ureido)acetyl Chloride Hydrochloride
Ethyl 2-(p-chlorophenyl)acetimidate is converted into 2-(3-[2-(p-chlorophenyl)acetimidoyl]ureido)acetyl chloride hydrochloride using the above procedure, except that the hydrolysis step is carried out using 1N sodium hydroxide and dimethoxyethane (3:1), followed by acidification with 4N hydrochloric acid.

reactant | Ethyl 2-(p-chlorophenyl)acetimidate | ClC1=CC=C(C=C1)CC(OCC)=N | C10H12ClNO
reactant | 2-(3-[2-(p-chlorophenyl)acetimidoyl]ureido)acetyl chloride hydrochloride | Cl.ClC1=CC=C(C=C1)CC(=N)NC(NCC(=O)Cl)=O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-(3-[p-Methoxybenzimidoyl]ureido)acetyl Chloride Hydrochloride | Cl.COC1=CC=C(C(=N)NC(NCC(=O)Cl)=O)C=C1 | InChI=1S/C11H12ClN3O3.ClH/c1-18-8-4-2-7(3-5-8)10(13)15-11(17)14-6-9(12)16;/h2-5H,6H2,1H3,(H3,13,14,15,17);1H
